US05078838
2-Chloro-4-fluorobenzaldehyde dimethyl acetal
Electrolyte: 900 g (4.445 mol) of 2-chloro-4-fluorobenzyl acetate, 30 g of sodium methylate, 90 g of sodium benzenesulfonate and 5040 g of methanol

reactant | 2-chloro-4-fluorobenzyl acetate | 4.445 mol, 900 g | C(C)(=O)OCC1=C(C=C(C=C1)F)Cl | C9H8ClFO2
reactant | sodium methylate | 30 g | C[O-].[Na+]
reactant | sodium benzenesulfonate | 90 g | C1(=CC=CC=C1)S(=O)(=O)[O-].[Na+]
solvent | methanol | 5040 g | CO | CH4O
product | 2-Chloro-4-fluorobenzaldehyde dimethyl acetal | COC(C1=C(C=C(C=C1)F)Cl)OC | C9H10ClFO2
